US06552068B1
A 1M solution of lithium hexamethyl-disilazide in tetrahydrofuran (86.2 ml) was added dropwise to a solution of 7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-4-(2-propenyl)chroman-2-one (16.57 g) in dry tetrahydrofuran (86.2 ml) at −78° C. over 30 minutes under nitrogen atmosphere, followed by stirring for 20 minutes at 0° C. After the reaction mixture was cooled to −78° C., ethyl triflate (21.6 ml) was added dropwise thereto over 20 minutes and the resulting mixture was warmed to −30° C. over 3 hours, followed by addition of pyridine (13.9 ml). This mixture was stirred for 15 minutes at −30° C., cooled to −78° C., and further mixed with saturated aqueous ammonium chloride (100 ml) and water (50 ml). After extraction with ethyl acetate, the organic layer was washed with 0.05 N aqueous hydrochloric acid and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate. After concentration under reduced pressure, the resulting oil was purified by flash column chromatography (silica gel: Merck Kieselgel 60, eluent: hexane/ethyl acetate=5/1→4/1) to give (3RS,4RS)-3-ethyl-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-4-(2-propenyl)chroman-2-one (14.98 g, Yield 84.3%) as a white solid.

reactant | lithium hexamethyl-disilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-4-(2-propenyl)chroman-2-one | 16.57 g | COCOC1=CC=C2C(C(C(OC2=C1)=O)C1=CC=C(C=C1)OCOC)CC=C | C22H24O6
reactant | ethyl triflate | 21.6 ml | O(S(=O)(=O)C(F)(F)F)CC | C3H5F3O3S
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 86.2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 86.2 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | pyridine | 13.9 ml | N1=CC=CC=C1 | C5H5N
product | (3RS,4RS)-3-ethyl-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-4-(2-propenyl)chroman-2-one | 14.98 g, Yield 84.3% | C(C)C1(C(OC2=CC(=CC=C2C1CC=C)OCOC)=O)C1=CC=C(C=C1)OCOC | C24H28O6
